US08471019B2
2,5-Bis-phenylsulfanyl-benzene-1,4-dicarbaldehyde
A 500 ml Schlenk flask is charged under an inert atmosphere with 2,5-Dichloro-benzene-1,4-dicarbaldehyde (30.45 g, 0.15 mol), potassium carbonate (62.1 g, 0.45 mol) and dry DMF (200 ml). The flask is immersed in an oil bath of 80° C., and then without delay thiophenol (33.0 g, 0.3 mol) is added via a dropping funnel within 15 minutes. To the formed brown suspension is added water (ca. 100 ml) and the mixture is stirred for another 5 minutes. Then the contents of the flask are poured as a thin stream into a beaker which containd 2 L of vigorously stirred water. A yellow solid precipitates, and the mixture is stirred for another hour. The solid is then filtered off, washed with water (twice 250 ml), and recrystallised without further drying from THF (ca. 200 ml). The crystals of the product are filtered off, washed with little iso-propanol (ca. 50 ml) and dried to give the product (36.75 g). From the mother liquors most of the THF is removed on the rotavapor which leads to the crystallisation of another crop. This material is also filtered off and washed with little iso-propanol to give another 4.72 g of product. Bright yellow crystals, mp. 163° C. 1H-NMR (CDCl3, 300 MHz) δ 7.39 (phenyl para H); 7.40 (phenyl ortho H)); 7.41 (phenyl meta H); 7.58 (s, aryl CH); 10.27 (s, 1H, CHO). 13C-NMR (CDCl3, 75 MHz) δ 129.18 (phenyl para CH); 130.19 (phenyl ortho CH); 132.47 (phenyl ipso C); 133.20 (phenyl meta CH); 133.75 (aryl CH); 136.79 (CCHO); 139.54 (CS); 190.45 (CHO).

reactant | 2,5-Dichloro-benzene-1,4-dicarbaldehyde | 0.15 mol, 30.45 g | ClC1=C(C=C(C(=C1)C=O)Cl)C=O | C8H4Cl2O2
reactant | potassium carbonate | 0.45 mol, 62.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | thiophenol | 0.3 mol, 33.0 g | C1(=CC=CC=C1)S | C6H6S
solvent | water | O | H2O
solvent | water | ca. 100 ml | O | H2O
product | 2,5-Bis-phenylsulfanyl-benzene-1,4-dicarbaldehyde | 36.75 g | C1(=CC=CC=C1)SC1=C(C=C(C(=C1)C=O)SC1=CC=CC=C1)C=O | C20H14O2S2
